US06812225B2
6-Methoxy-8-(4-methyl-[1,4]diazepan-1-yl)-4-(2-trimethylsilanyl-ethoxymethoxy)-quinoline-2-carboxylic acid methyl ester
To a clear, light brown solution of 2-bromo-6-methoxy-4-(2-trimethylsilanyl-ethoxymethoxy)-quinoline-2-carboxylic acid methyl ester (1.01 g, 2.28 mmol), N-methylhomopiperazine (0.32 mL, 2.57 mmol), and 4 Å sieves in 30 mL anhydrous toluene was added Pd2(dba)2 (43.8 mg, 0.048 mmol) and BINAP (169.8 mg, 0.27 mmol). The resulting wine colored solution was treated with cesium carbonate (1.124 g, 3.45 mmol). The reaction mixture was heated at reflux under nitrogen for 21 hours. The pea green reaction mixture was cooled to room temperature and concentrated. The crude mixture was purified by flash chromatography on silica gel using a gradient of 95:5 to 40:60 methylene chloride:methanol to afford the desired product as a yellow foam (1.004 g, 92%). 1H NMR (300 MHz, DMSO, d6) δ 7.67 (s, 1H, ArH3), 6.94 (d, 1H, Jm=2.4 Hz, ArH5), 6.66 (d, 1H, Jm=2.4 Hz, ArH7), 5.60 (s, 2H, OCH2O), 3.94 (s, 3H, CO2CH3), 3.88 (s, 3H, OCH3), 3.82 (t, 2H, J=8.0 Hz, OCH2CH2Si), 3.75 (bs, 4H, ArNCH2CH2CH2NCH3 & ArNCH2CH2N—CH3), 3.45 (bs, 2H, ArNCH2CH2NCH3), 3.31 (bs, 2H, ArNCH2CH2CH2NCH3), 2.83 (s, 3H, NCH3), 2.28 (bs, 2H, ArNCH2CH2CH2NCH3), 0.92 (t, 2H, J=8.0 Hz, OCH2CH2Si), 0.04 (s, 9H, Si(CH3)3; Mass Spec.: calc. for [C24H37N3O5Si+H]+ Theor. m/z=476; Obs. 476.

reactant | 2-bromo-6-methoxy-4-(2-trimethylsilanyl-ethoxymethoxy)-quinoline-2-carboxylic acid methyl ester | 2.28 mmol, 1.01 g | COC(=O)C1(NC2=CC=C(C=C2C(=C1)OCOCC[Si](C)(C)C)OC)Br | C18H26BrNO5Si
reactant | N-methylhomopiperazine | 2.57 mmol, 0.32 mL | CN1CCNCCC1 | C6H14N2
reactant | BINAP | 0.27 mmol, 169.8 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | cesium carbonate | 3.45 mmol, 1.124 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
product | 6-Methoxy-8-(4-methyl-[1,4]diazepan-1-yl)-4-(2-trimethylsilanyl-ethoxymethoxy)-quinoline-2-carboxylic acid methyl ester | 1.004 g, 92% | COC(=O)C1=NC2=C(C=C(C=C2C(=C1)OCOCC[Si](C)(C)C)OC)N1CCN(CCC1)C | C24H37N3O5Si
